US04616009
To a solution of 16 g of 5-fluoro-2-methylindole-3-carboxylic acid in 260 ml of tetrahydrofuran were added 16 g of 4-amino-1-benzylpiperidine and 19 g of dicyclohexylcarbodiimide, and the whole mixture was refluxed under heating for 3 hours. After cooling, the precipitated dicyclohexylurea was filtered off and the extract was concentrated. A mixture of the residue in 70 ml of tetrahydrofuran was stirred at room temperature and the insoluble dicyclohexylurea was filtered off. The filtrate was concentrated and the resulting residue was crystallized with hexane. The resultant crystals were filtered with suction and recrystallized from ethyl acetate to give 22.5 g of N-(1-benzyl-4-piperidyl)-5-fluoro-2-methylindole-3-carboxamide, melting at 166°-169° C.

reactant | 5-fluoro-2-methylindole-3-carboxylic acid | 16 g | FC=1C=C2C(=C(NC2=CC1)C)C(=O)O | C10H8FNO2
reactant | 4-amino-1-benzylpiperidine | 16 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | dicyclohexylcarbodiimide | 19 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 260 ml | O1CCCC1 | C4H8O
product | N-(1-benzyl-4-piperidyl)-5-fluoro-2-methylindole-3-carboxamide | 22.5 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C1=C(NC2=CC=C(C=C12)F)C | C22H24FN3O
